US06455566B1
1-(5-Chloro-2-methyl-phenyl)-3-(4-methyl-thiazol-2-yl)-thiourea
Prepared using Method B from 4.5 g (24.5 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 2.8 g (24.5 mmol) of 2-amino4-methylthiazole to give 4.8 g of title compound as an off- white solid (95% yield, m.p. 188° C.).

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 24.5 mmol, 4.5 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 2-amino4-methylthiazole | 24.5 mmol, 2.8 g | NC=1SC=C(N1)C | C4H6N2S
product | 1-(5-Chloro-2-methyl-phenyl)-3-(4-methyl-thiazol-2-yl)-thiourea | 4.8 g, 95% yield | ClC=1C=CC(=C(C1)NC(=S)NC=1SC=C(N1)C)C | C12H12ClN3S2
